US08022206B2
4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-piperidine-1-carboxamide
A mixture of 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-yl}-3,6-dihydro-2H-pyridine-1-carboxamide (17.0 mg, 0.037 mmol), palladium 10% wt on activated carbon (10 mg), EtOAc (4 mL) and MeOH (0.4 mL) was flushed with nitrogen, then a hydrogen (0.5 L) balloon was added, and the mixture was stirred at rt for 3 h. The suspension was filtered through a syringe filter pad, and the filtrate was concentrated in vacuo. The material was redissolved in MeOH (0.5 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.55-1.69 (m, 2H), 1.87 (d, J=6.8 Hz, 3H), 1.98-2.06 (m, 2H), 2.89-3.03 (m, 3H), 4.11 (d, J=12.9 Hz, 2H), 6.53 (q, J=6.7 Hz, 1H), 7.18-7.25 (m, 1H), 7.37-7.43 (m, 2H), 8.02 (s, 1H). MS (ES+): m/z 467.01/469.00 (100/69) [MH+]. HPLC: tR=2.58 min (ZQ3, polar—5 min).

reactant | 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridine-3-yl}-3,6-dihydro-2H-pyridine-1-carboxamide | 0.037 mmol, 17.0 mg | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(=O)N)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C21H19Cl2FN4O3
reactant | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
catalyst | palladium | [Pd] | Pd
solvent | MeOH | 0.4 mL | CO | CH4O
product | 4-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-piperidine-1-carboxamide | NC1=C(C2=C(C=N1)C(=CO2)C2CCN(CC2)C(=O)N)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C21H21Cl2FN4O3
